US07498337B2
1-[(6-methoxypyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde
Under an argon atmosphere, 5-phenyl-1H-pyrrole-3-carbaldehyde (171 mg) was dissolved in absolute tetrahydrofuran (20 mL), and sodium hydride (60% in oil, 200 mg) was added at room temperature while stirring. After stirring at the same temperature for 15 min, 15-crown-5 (1.01 mL) was added, and the mixture was further stirred at the same temperature for 15 min. 6-Methoxypyridin-3-ylsulfonyl chloride (623 mg) was added, and the mixture was stirred at the same temperature for 1 hr. The reaction mixture was diluted with ethyl acetate, washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→1:1) to give the title compound as an oil (yield 59 mg, 17%).

reactant | 5-phenyl-1H-pyrrole-3-carbaldehyde | 171 mg | C1(=CC=CC=C1)C1=CC(=CN1)C=O | C11H9NO
reactant | sodium hydride | 200 mg | [H-].[Na+]
reactant | 15-crown-5 | 1.01 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 6-Methoxypyridin-3-ylsulfonyl chloride | 623 mg | COC1=CC=C(C=N1)S(=O)(=O)Cl | C6H6ClNO3S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[(6-methoxypyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde | yield 59 mg, 17% | COC1=CC=C(C=N1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C=O | C17H14N2O4S
